US07332501B2
To a stirred solution of 40 mg (0.11 mmol) of 1′-[(2-methyl-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine] (the preparation of which has been described in example 43) in 3 ml DMF was added 5 mg (0.11 mmol) NaH (60% in oil). The mixture was stirred at RT for 30 min. and then 19 mg (0.13 mmol) of benzoyl chloride was added. The mixture was stirred an additional hour and then poured onto water and extracted with ethyl acetate. The combined organic phases were dried over Na2SO4 and concentrated in vacuo. Re-crystallization in Et2O afforded 51 mg (98%) of 1′-[(1-benzoyl-2-methyl-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine] as white crystals.

reactant | 1′-[(2-methyl-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine] | 0.11 mmol, 40 mg | CC=1NC2=CC=CC=C2C1C(=O)N1CCC2(CC1)OCC1=C2C=CC=C1 | C22H22N2O2
reactant | NaH | 0.11 mmol, 5 mg | [H-].[Na+]
reactant | benzoyl chloride | 0.13 mmol, 19 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1′-[(1-benzoyl-2-methyl-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine] | 51 mg, 98% | C(C1=CC=CC=C1)(=O)N1C(=C(C2=CC=CC=C12)C(=O)N1CCC2(CC1)OCC1=C2C=CC=C1)C | C29H26N2O3
